US04136256
Preparation of sodium p-[4-(hexadecylamino)benzamido]benzenesulfonate
A methylene chloride solution of N-trifluoroacetyl-4-(hexadecylamino)benzoyl chloride (4.8 g.) is added to a solution of 1.8 g. of sulfanilic acid in 1N sodium hydroxide at 0° C. After 3 hours, the solution is warmed to 60° C. briefly and the whole evaporated to dryness. The residue is extracted with a small amount of cold water and the resulting white solid crystallized from aqueous ethanol.

reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | N-trifluoroacetyl-4-(hexadecylamino)benzoyl chloride | 4.8 g | FC(C(=O)N(C1=CC=C(C(=O)Cl)C=C1)CCCCCCCCCCCCCCCC)(F)F | C25H37ClF3NO2
reactant | sulfanilic acid | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
product | sodium p-[4-(hexadecylamino)benzamido]benzenesulfonate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)NC2=CC=C(C=C2)S(=O)(=O)[O-])C=C1.[Na+] | InChI=1S/C29H44N2O4S.Na/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-24-30-26-18-16-25(17-19-26)29(32)31-27-20-22-28(23-21-27)36(33,34)35;/h16-23,30H,2-15,24H2,1H3,(H,31,32)(H,33,34,35);/q;+1/p-1
